US04052514
A mixture of 2,2',4'-trifluoro-4-biphenylylacetic acid (3.6 g.) and thionyl chloride (15 ml.) was refluxed for 1 hour; excess thionyl chloride was removed and the residual acid chloride distilled at 141°-143° C./1.0 mm as a yellow oil, solidifying on cooling, (3.11 g.). Recrystallisation from 62-68 petroleum ether gave colourless needles of 2,2',4'-trifluoro-4-biphenylylacetyl chloride, m.p. 70°-73° C. 1 g. of this was dissolved in ether (10 ml.) and the solution added slowly to a stirred mixture of ammonia (SG=0.880; 5 ml.) and ether (25 ml.) at room temperature. After stirring for 15 minutes, the product was isolated in ether, washed, dried and evaporated. Recrystallization of the residue from methylene chloride/40-60 petroleum ether followed by a further crystallization from 100-120 petroleum ether gave colourless plates of 2,2',4'-trifluoro-4-biphenylylacetamide, m.p. 137°-140° C.

reactant | 2,2',4'-trifluoro-4-biphenylylacetic acid | 3.6 g | FC1=C(C=CC(=C1)CC(=O)O)C1=C(C=C(C=C1)F)F | C14H9F3O2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,2',4'-trifluoro-4-biphenylylacetyl chloride | FC1=C(C=CC(=C1)CC(=O)Cl)C1=C(C=C(C=C1)F)F | C14H8ClF3O
